US08183275B2
To a stirred solution of 4,4-bis(fluoromethyl)hex-1-ene (9.1 g, 62 mmol) in acetone (360 mL)/water (120 mL) at rt was added osmium tetroxide (155 mg, 0.62 mmol) and potassium periodate (29.7 g; 129 mmol) (the latter in portions). After stirring for 15 h, the reaction mixture was diluted with diethyl ether (180 mL). The organic layer was separated, and the aqueous layer was extracted with diethyl ether (3×180 mL). The extracts were washed with saturated sodium thiosulfate (250 mL) and brine (250 mL), dried over sodium sulfate and concentrated to give a residue. The resulting residue was distilled under vacuum to provide 3,3-bis(fluoromethyl)pentanal.

reactant | 4,4-bis(fluoromethyl)hex-1-ene | 62 mmol, 9.1 g | FCC(CC=C)(CC)CF | C8H14F2
reactant | water | 120 mL | O | H2O
reactant | potassium periodate | 129 mmol, 29.7 g | I(=O)(=O)(=O)[O-].[K+]
solvent | acetone | 360 mL | CC(=O)C | C3H6O
solvent | diethyl ether | 180 mL | C(C)OCC | C4H10O
catalyst | osmium tetroxide | 0.62 mmol, 155 mg | [Os](=O)(=O)(=O)=O
product | 3,3-bis(fluoromethyl)pentanal | FCC(CC=O)(CC)CF | C7H12F2O
